* E:\studia\energoelektronika\Energo_Laby\stepdown.asc
V1 N002 0 12 Rser=25
C1 N004 0 {C4}
L1 N003 N004 {L4}
D1 0 N003 D
V2 N001 0 PULSE(0 2m 0 0 0 {Ton} {T})
I2 NC_01 NC_02 35m
S1 N003 N002 N001 0 SW
I1 NC_03 NC_04 {Iout}
V3 NC_05 NC_06 {Vout}
R1 N004 0 {opor}
.model D D
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.PARAM F = 8.89k
.PARAM T = 1/F
.PARAM wyp = 0.2
.PARAM Ton = wyp*T
.PARAM Iout = 50m
.PARAM Vout = 3
.PARAM opor = Vout/Iout
.Model SW SW(Ron = 1m Roff = 100Meg Vt = 1m)
.PARAM L4 = 1400u
.PARAM L2 = 470u
.PARAM L1 = 220u
.PARAM C1 = 1u
.PARAM C2 = 4.7u
.PARAM C3 = 10u
.PARAM C4 = 33u
.step param Iout  10 150 5
.step param wyp 10 90 5
.measure prond AVG I(L1)*1000
.tran 0.005
.backanno
.end
