* E:\studia\energoelektronika\Energo_Laby\stepup.asc
V1 N001 0 3.5 Rser=0
C1 Vout 0 {C4}
L1 N001 N002 {L3}
D1 N002 Vout D
V2 N003 0 PULSE(0 2m 0 0 0 {Ton} {T})
S1 0 N002 N003 0 SW
I1 NC_01 NC_02 {Iout}
V3 Vout 0 {Vout}
.model D D
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.PARAM F = 5.95k
.PARAM T = 1/F
.PARAM wyp = 0.164
.PARAM Ton = wyp*T
.PARAM Iout = 45.3m
.PARAM Vout = 3
.Model SW SW(Ron = 1m Roff = 100Meg Vt = 1m)
.PARAM L4 = 1500u
.PARAM L3 = 820u
.PARAM L2 = 680u
.PARAM L1 = 470u
.PARAM C1 = 1u
.PARAM C2 = 4.7u
.PARAM C3 = 10u
.PARAM C4 = 47u
.step param wyp 0.1 0.9 0.05
.step param Vout list 4.9 7 9.8 14
.measure prond AVG I(V3)*1000
.tran 0 0.1 0.08
.backanno
.end
